US04912105
A solution of 2-phenothiazinecarbonitrile (224.5 g) in dimethylformamide (1 liter) is poured into a suspension of sodium hydride (24 g) in dimethylformamide (1 liter) at a temperature of about 25° C., whilst stirring and in 2 hours 30 minutes, then the mixture is stirred for a further 1 hour 15 minutes until evolution of gas has ended. The fine suspension obtained is poured, with stirring and at a temperature of about 25° C., in 4 hours 30 minutes into a solution of ethyl 2-chloropropionate (255 cc) in dimethylformamide (1 liter) and stirring is continued for 16 hours. Ethanol (100 cc) is then poured into the reaction mixture then the whole is poured onto a mixture of ice (2 kg) in distilled water (4 liters): a gum precipitates and then crystallizes. The solid formed is centrifuged, washed successively with distilled water (6×500 cc) and petroleum ether (2×500 cc) and dried in air. Ethyl (2RS)-2-(2-cyano-10-phenothiazinyl)propionate (296.5 g) is thus obtained in the form of khaki-colored crystals which melt at 117°-8° C., used as such in the following stage.

reactant | 2-phenothiazinecarbonitrile | 224.5 g | C1=C(C=CC=2SC3=CC=CC=C3NC12)C#N | C13H8N2S
reactant | sodium hydride | 24 g | [H-].[Na+]
reactant | ethyl 2-chloropropionate | 255 cc | ClC(C(=O)OCC)C | C5H9ClO2
reactant | Ethanol | 100 cc | C(C)O | C2H6O
solvent | dimethylformamide | 1 liter | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 1 liter | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 1 liter | CN(C=O)C | C3H7NO
solvent | water | 4 liters | O | H2O
product | Ethyl (2RS)-2-(2-cyano-10-phenothiazinyl)propionate | 296.5 g | C(#N)C1=CC=2N(C3=CC=CC=C3SC2C=C1)C(C(=O)OCC)C | C18H16N2O2S
